US07528164B2
2-Amino-3-cyano-4-(3-methoxyphenyl)-7-methyl-4H-pyrrolo[2,3-h]chromene
The title compound was prepared from 4-hydroxy-1-methylindole (40 mg, 0.27 mmol), 3-methoxybenzaldehyde (38 mg, 0.27 mmol) and malononitrile (18 mg, 0.27 mmol) similar to Example 24 to yield 64 mg (69%) of white solids. 1H NMR (CDCl3): 7.23-7.18 (m, 1H), 7.05-7.00 (m, 2H), 6.83-6.74 (m, 4H), 6.56 (d, J=3.0 Hz, 1H), 4.81 (s, 1H), 4.64 (brs, 2H), 3.76 (s, 6H).

reactant | 4-hydroxy-1-methylindole | 0.27 mmol, 40 mg | OC1=C2C=CN(C2=CC=C1)C | C9H9NO
reactant | 3-methoxybenzaldehyde | 0.27 mmol, 38 mg | COC=1C=C(C=O)C=CC1 | C8H8O2
reactant | malononitrile | 0.27 mmol, 18 mg | C(CC#N)#N | C3H2N2
product | 2-Amino-3-cyano-4-(3-methoxyphenyl)-7-methyl-4H-pyrrolo[2,3-h]chromene | NC=1OC2=C3C(=CC=C2C(C1C#N)C1=CC(=CC=C1)OC)N(C=C3)C | C20H17N3O2
